US07132539B2
Preparation of (S,S)-2-[3-Allyl-4-(2-nitro-benzenesulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester (4):
To a solution of (S,S)-3-naphthalen-2-yl-2-[2-(2-nitro-benzenesulfonylamino)-pent-4-enoylamino]-propionic acid methyl ester, 3, (3.6 g, 7.0 mmol) and 1,2-dibromoethane (13.2 g, 70.0 mmol) in DMF (40 mL) is added potassium carbonate (9.6 g, 70.0 mmol). The reaction suspension was stirred at 65° C. for 12 h, quenched with 10% aqueous HCl and extracted with EtOAc. The extract is dried over Na2SO4, concentrated and the residue purified over silica gel (hexanes/EtOAc,1:2) to afford 3.7 g (97% yield) of the desired product.

reactant | (S,S)-3-naphthalen-2-yl-2-[2-(2-nitro-benzenesulfonylamino)-pent-4-enoylamino]-propionic acid methyl ester | COC([C@H](CC1=CC2=CC=CC=C2C=C1)NC([C@H](CC=C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C25H25N3O7S
reactant | 1,2-dibromoethane | 70.0 mmol, 13.2 g | BrCCBr | C2H4Br2
reactant | potassium carbonate | 70.0 mmol, 9.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (S,S)-2-[3-Allyl-4-(2-nitro-benzenesulfonyl)-2-oxo-piperazin-1-yl]-3-naphthalen-2-yl-propionic acid methyl ester | 3.7 g, 97% yield | COC([C@H](CC1=CC2=CC=CC=C2C=C1)N1C([C@@H](N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=C)=O)=O | C27H27N3O7S
